US05264449
To a solution of diisopropylamine (58 mg, 0.57 mmol) in tetrahydrofuran (THF) (2 mL) at 0° was added 251 μL of a 2.5 M solution of D-butyl lithium (0.63 mmol) in hexane. The solution was stirred at 0° for 15 min., then cooled to -78° and (3R, 4R)-3-ethyl-4-[(1-methyl-1H-imidazol-5-yl) methyl]-2-pyrrolidinone (118.2 mg, 0.57 mmol) in THF (2.5 mL) was added via cannula, followed by a THF (0.5 mL) rinse. After 2 hours at -78 , methyl cyanoformate (50.9 mg, 0.60 mmol) was added and the reaction was maintained at -78° for 1.5 hours, then warmed to room temperature for 15 hours. The reaction was quenched with saturated aqueous NaHCO3, extracted three times with CHCl3, dried (Na2SO4), filtered, concentrated and the residue was chromatographed on silica gel (5% MeOH satured with NH3 /CHCl3) to give 44.3 mg of (3R, 4R)-1-carbomethoxy-3-ethyl-4[(1-methyl-1H-imidazol-5-yl)methyl]-2-pyrrolidinone as an oil (28%).

reactant | diisopropylamine | 0.57 mmol, 58 mg | C(C)(C)NC(C)C | C6H15N
reactant | (3R, 4R)-3-ethyl-4-[(1-methyl-1H-imidazol-5-yl) methyl]-2-pyrrolidinone | 0.57 mmol, 118.2 mg | C(C)[C@H]1C(NC[C@@H]1CC1=CN=CN1C)=O | C11H17N3O
reactant | methyl cyanoformate | 0.60 mmol, 50.9 mg | C(#N)C(=O)OC | C3H3NO2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2.5 mL | O1CCCC1 | C4H8O
solvent | THF | 0.5 mL | O1CCCC1 | C4H8O
product | (3R, 4R)-1-carbomethoxy-3-ethyl-4[(1-methyl-1H-imidazol-5-yl)methyl]-2-pyrrolidinone | 44.3 mg, 28% | C(=O)(OC)N1C([C@@H]([C@H](C1)CC1=CN=CN1C)CC)=O | C13H19N3O3
